US08809342B2
Methyl 4-butyrylbenzoate (256.1 mg, 1.242 mmol) was dissolved in tetrahydrofuran (3 mL) and methanol (3.0 mL). 1N aqueous sodium hydroxide (3.73 mL) was added and the reaction mixture was heated to 50° C. for 3 h. The reaction mixture was then cooled to room temperature and concentrated. The crude residue was taken up in water and acidified to pH 5 by addition of 1N aqueous HCl. A colorless precipitate formed. The solids were filtered off and dried under vacuum to give 4-butyrylbenzoic acid (155.4 mg, 65%) as a colorless solid. 1H NMR (400 MHz, CDCl3, δ) 8.16-8.21 (m, 2H), 8.01-8.05 (m, 2H), 2.98 (t, J=7.2 Hz, 2H), 1.78 (m, 2H), 1.01 (t, J=7.41 Hz, 3H).

reactant | Methyl 4-butyrylbenzoate | 1.242 mmol, 256.1 mg | C(CCC)(=O)C1=CC=C(C(=O)OC)C=C1 | C12H14O3
reactant | sodium hydroxide | 1N, 3.73 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 3.0 mL | CO | CH4O
product | 4-butyrylbenzoic acid | 155.4 mg, 65% | C(CCC)(=O)C1=CC=C(C(=O)O)C=C1 | C11H12O3
